Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
ACE Inhibitors
 
Attending: ___
 
Chief Complaint:
Dizziness 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a past medical history
of HTN, HLD who presents for evaluation after an acute stroke 
was
found on MRI brain done as outpatient, for multiple episodes of
dizziness.

She says that on ___, she had an episode of
lightheadedness, which lasted only several minutes. She was
driving in the car when this happened. She did not lose
consciousness. There were no palpitations. She went to an 
outside
ED, where she had EKG, CXR and several other tests done and was
discharged.

Then in ___, she had an episode of room spinning, which lasted
about 3 minutes, along with ringing in her ears. This happened
while she was sitting on the couch watching TV, she had not 
moved
her head. This was not accompanied by any double vision 
(although
she is chronically blind in R eye from retinal detachment),
numbness or weakness.

She had one more short episode of vertigo a few weeks ago.

Other than those episode, she has had no other neurologic
symptoms, except for a slightly unsteady gait. This started 
after
the first vertigo episode in ___. She hasn't fallen or walked
crooked, but she does feel slightly unsteadier than usual, which
she cannot describe further.

She was sent to an ENT for evaluation of the dizziness. She is
not sure what they said she had, except that they ordered the
MRI.

Read of the MRI per the call in:
"1. As discussed with Dr. ___ Dr. ___, there is a
small less than 10 day old infarct in the left precentral gyrus
within the  left MCA  territory 
2. There are mild chronic microvascular changes in the cerebral
white matter, a common finding at this age 
___. Normal MRA studies of the head and neck 
4. The small infarct is likely secondary to aortic or cardiac
embolic disease with the potential for a second, larger infarct
in the near future."

She was sent in to the ___ for further evaluation.

No recent travel.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, or hearing difficulty.
Denies difficulties producing or comprehending speech.  Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN 
HLD 
 
Social History:
___
Family History:
No family history of stroke or blood clots.

 
Physical Exam:
Admission Exam: 
Vitals: 97.7 83 158/94 19 96% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. No paraphasic errors. Naming
intact to both high and low frequency objects.  Reads without
difficulty. Speech was not dysarthric. Able to follow both
midline and appendicular commands. Good knowledge of current
events. No apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation in the left
eye. 
III, IV, VI: EOMI without nystagmus on testing, at rest with
exotropia of right eye.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5-  5    5  5     5     5   5
R  5    ___   ___  5-  5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF, dysmetric on bilateral lower extremities,
R>L.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unsteady with tandem. +Romberg.
Discharge Exam: 
MS: Speech Fluent 
CN: Exotropia OD concomitant, full EOM. Face symmetric. palate 
midline
Motor: ___ Delt Bi Tri Fex, Fflx IP Quad Ham Gas 
Sensory: Vibration intact in toes b/l 
Coord: FNF intact, - Romberg
Gait: nl gait, narrow stride

 
Pertinent Results:
IMAGING: None. Reviewed OSH imaging. 

LABS: 
___ 07:10AM BLOOD WBC-5.0 RBC-4.51 Hgb-12.9 Hct-39.2 MCV-87 
MCH-28.6 MCHC-32.9 RDW-14.8 RDWSD-47.2* Plt ___
___ 07:10AM BLOOD Neuts-30.3* Lymphs-58.6* Monos-9.1 
Eos-1.4 Baso-0.4 Im ___ AbsNeut-1.52* AbsLymp-2.95 
AbsMono-0.46 AbsEos-0.07 AbsBaso-0.02
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD ___ PTT-29.4 ___
___ 07:10AM BLOOD Glucose-97 UreaN-17 Creat-1.1 Na-141 
K-3.6 Cl-103 HCO3-31 AnGap-11
___ 06:48PM BLOOD Glucose-95 UreaN-16 Creat-1.1 Na-138 
K-3.4 Cl-101 HCO3-27 AnGap-13
___ 07:10AM BLOOD ALT-15 AST-21 LD(LDH)-176 CK(CPK)-79 
AlkPhos-71 TotBili-0.4
___ 06:48PM BLOOD ALT-18 AST-23 AlkPhos-84 TotBili-0.6
___ 07:10AM BLOOD CK-MB-1 cTropnT-<0.01
___ 06:48PM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD TotProt-6.5 Albumin-3.9 Globuln-2.6 
Cholest-168
___ 06:48PM BLOOD Albumin-4.6 Calcium-10.9* Phos-2.8 Mg-2.0
___ 07:10AM BLOOD %HbA1c-5.3 eAG-105
___ 07:10AM BLOOD Triglyc-76 HDL-50 CHOL/HD-3.4 LDLcalc-103
___ 07:10AM BLOOD TSH-2.2
___ 06:48PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
She was admitted for intermittent vertigo. Outpt MRI reviewed - 
subacute L precentral gyrus infarct (DWI hyperintensity with 
normal ADC map). She had a Nonfocal Neuro exam during admission. 
A1c and LDL pending. LDL at At___ in ___: 95. Intermittent 
vertigo is not secondary to central neurological issue. L 
Precentral gyrus stroke was an incidental finding. She should 
have an ___ neurology followup as well as outpatient ___ and 
holter for Afib. We also started her on Plavix 75 mg daily and 
stopped aspirin. 

Transitional Issues:
- Outpatient ___ of Hearts
- Outpt Neurology followup 
- LDL, A1c followup 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Amlodipine 2.5 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 2.5 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
STROKE 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were hospitalized because a stroke was seen on an MRI that 
___ had done. Luckily the stroke that was seen has not caused 
any neurologic deficits and is not responsible for your 
dizziness. Although the MRI was done to evaluate potential 
causes of dizziness, it is not completely clear that your 
dizziness is due to TIA or stroke and we recommend continuing 
the ongoing workup with your ENT doctor. Intermittent dizziness 
lasting only seconds could potentially be due to stroke, but 
there are other possibilities as well that need to be 
investigated as well. We are changing your medications (stop 
aspirin, start Plavix) to lower your risk of recurrent stroke. 
___ also need further work-up to be done after ___ leave the 
hospital in order to determine whether or not there are other 
risk factors that we can alter to lower your risk of stroke. 

 An ACUTE ISCHEMIC STROKE is a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.  
Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
High Blood Pressure
High Cholesterol

We are changing your medications as follows:  
1) Start Plavix 75 mg daily 
2) Stop aspirin (it is being replaced by Plavix)
 
Please take your other medications as prescribed.  

Please followup with Neurology and your primary care physician 
as listed below.  Please complete an outpatient transthoracic 
echo (an ultrasound of your heart) and outpatient cardiac 
monitoring. 

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
___  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

Sincerely 
Your ___ Neurology Team 

 
Followup Instructions:
___